US08389508B2
To a solution of 5-[5-(2-ethyl-3-formylphenyl)-1,3,4-thiadiazol-2-yl]-2-(2-methylpropyl)benzonitrile (D27) (100 mg, 0.266 mmol) in Ethanol (10 mL) stirred at room temperature was added 3-pyrrolidinecarboxylic acid (123 mg, 1.065 mmol) and AcOH (0.15 mL, 2.62 mmol). The reaction mixture was stirred at room temperature for 10 min, and sodium triacetoxyborohydride (110 mg, 0.522 mmol) was added. The reaction mixture was continuously stirred overnight. The reaction was quenched with water, and EtOH was evaporated in vacuo. The mixture was extracted by EA for 3 times. The combined organic solution was washed by brine, dried over anhydrous Na2SO4. The dried solution was filtered and concentrated, and purified by Mass Directed AutoPrep to afford 1-[(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-ethylphenyl)methyl]-3-pyrrolidinecarboxylic acid (E48) (55 mg) as a off-white solid.

reactant | 5-[5-(2-ethyl-3-formylphenyl)-1,3,4-thiadiazol-2-yl]-2-(2-methylpropyl)benzonitrile | 0.266 mmol, 100 mg | C(C)C1=C(C=CC=C1C=O)C1=NN=C(S1)C=1C=CC(=C(C#N)C1)CC(C)C | C22H21N3OS
reactant | 3-pyrrolidinecarboxylic acid | 1.065 mmol, 123 mg | N1CC(CC1)C(=O)O | C5H9NO2
reactant | AcOH | 2.62 mmol, 0.15 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.522 mmol, 110 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | 1-[(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-ethylphenyl)methyl]-3-pyrrolidinecarboxylic acid | 55 mg | C(#N)C=1C=C(C=CC1CC(C)C)C1=NN=C(S1)C=1C(=C(C=CC1)CN1CC(CC1)C(=O)O)CC | C27H30N4O2S
